US07335658B2
2-{4-[6-(2-CYCLOPROPYLETHYLCARBAMOYL)PYRIDAZIN-3-YL]PIPERAZINE-1-CARBONYL}BENZOIC ACID Methyl Ester
Following the procedure of Example 14, making variations only as required to use phthalic acid monomethyl ester in place of 4,4,4-trifluoro-2-methylbutyric acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a light yellow solid (97% yield). 1H NMR (300 MHz, CDCl3) δ 8.02-8.06, 7.96, 7.88, 7.60, 7.48, 7.30, 6.98, 3.72-4.02, 3.54, 3.33, 1.49, 0.74, 0.45, 0.08. MS (ES+) m/z 438 (M+1).

reactant | phthalic acid monomethyl ester | COC(C=1C(C(=O)O)=CC=CC1)=O | C9H8O4
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 2-{4-[6-(2-CYCLOPROPYLETHYLCARBAMOYL)PYRIDAZIN-3-YL]PIPERAZINE-1-CARBONYL}BENZOIC ACID Methyl Ester | COC(C1=C(C=CC=C1)C(=O)N1CCN(CC1)C=1N=NC(=CC1)C(NCCC1CC1)=O)=O | C23H27N5O4
